US06809097B1
6-Cyano-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one (1.9 g, 7.8 mmol) and DMF (0.2 ml) in thionyl chloride (50 ml) were heated at reflux for 2 hours. Excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene and dried under vacuum to give 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride (2.4 g, 82%) as a solid.

reactant | 6-Cyano-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one | 7.8 mmol, 1.9 g | C(#N)C=1C=C2C(C=CNC2=CC1OCCOC)=O | C13H12N2O3
reactant | DMF | 0.2 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride | 2.4 g, 82% | Cl.ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCOC | InChI=1S/C13H11ClN2O2.ClH/c1-17-4-5-18-13-7-12-10(6-9(13)8-15)11(14)2-3-16-12;/h2-3,6-7H,4-5H2,1H3;1H
